Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
HD Cytoxan
 
Major Surgical or Invasive Procedure:
Right Tunneled line placed ___ prior to HD Cytoxan
 
History of Present Illness:
Mr. ___ is a ___ M with recent diagnosis of IgA lambda 
multiple myeloma Durie-Salmon III. His initial presentation in 
___ was worsening back pain. He had mild back pain for 
several weeks, but on ___ developed acute back pain that 
brought him to ER. CT spine showed severe
demineralization with acute T8, T11, and T12 compression 
fractures, he was treated conservatively. Further workup: 
skeletal films confirmed the spinal fractures and also showed a 
1 cm lucency in the left femur in the proximal shaft. Blood work 
showed a new mild anemia with borderline elevated calcium of
10.9, with a creat of 1.2 and an IgA lambda  monoclonal spike of 
2219 with abnormal Kappa/Lamba light chains 5.1/595. Bone marrow 
performed by Dr. ___ on ___ was consistent with 
involvement by  multiple myeloma with 80% plasma cells.

He has IgA myeloma that historically had worse prognosis. His 
cytogenetics showed hyperdiploid karyotype that puts him into 
standard risk group. He achieved stringent CR by paraprotein 
considering that the light chains ratio is normal. He had very 
difficult and prolonged hospital stay secondary to his
compression fracture and spinal surgery. He has recovered from 
this prolonged illness. Clinically, he is doing better therefore 
as long as his multiple myeloma is responding to treatment we 
should proceed to high dose chemotherapy with stem cell rescue, 
followed by maintenance lenalidomide (if off study). The most 
recent data support high dose chemotherapy as the best treatment
option for patient younger than ___ years old. (Autologous 
Transplantation and Maintenance Therapy in Multiple Myeloma 
___ J Med ___, 
___: ___

Patient presents for HD Cytoxan.

 
Past Medical History:
___: New diagnosis of IgA Multiple Myeloma
 
Social History:
___
Family History:
Uncle and cousin with leukemia. No other family history of 
malignancy. Parents alive in ___, father with CVA several years 
ago. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
GEN: NAD
VS: REFER TO FLOWSHEET
HEENT: MMM, no OP lesions, no cervical, supraclavicular, or
axillary LAD
CV: Regular, normal S1 and S2 no S3, S4, or murmurs
PULM: Non-labored. Clear to auscultation bilaterally
ABD: BS+, soft, non-tender, non-distended, no masses, no
hepatosplenomegaly
LIMBS: No edema, no inguinal adenopathy
SKIN: No rashes or skin breakdown
NEURO: Grossly non-focal, alert and oriented X 4 

DISCHARGE PHYSICAL EXAM:
GEN: NAD
VS: 97.5 100/60 77 18 98%RA
HEENT: MMM, no OP lesions, no cervical, supraclavicular, or 
axillary LAD
CV: Regular, normal S1 and S2 no S3, S4, or murmurs
PULM: Non-labored. Clear to auscultation bilaterally
ABD: BS+, soft, non-tender, non-distended, no masses, no 
hepatosplenomegaly
LIMBS: No edema, no inguinal adenopathy
SKIN: No rashes or skin breakdown
NEURO: Grossly non-focal, alert and oriented X 4 
LINE: Right Tunneled with dried blood at insertion site, 
otherwise C/D/I
 
Pertinent Results:
___ 06:16AM BLOOD WBC-4.2# RBC-4.42* Hgb-13.3* Hct-39.5* 
MCV-89 MCH-30.1 MCHC-33.7 RDW-13.1 RDWSD-43.2 Plt ___
___ 11:15AM BLOOD WBC-6.0 RBC-4.99 Hgb-14.7 Hct-44.8 MCV-90 
MCH-29.5 MCHC-32.8 RDW-13.3 RDWSD-44.1 Plt ___
___ 12:00AM BLOOD Neuts-91.7* Lymphs-6.4* Monos-1.3* 
Eos-0.3* Baso-0.1 Im ___ AbsNeut-7.96*# AbsLymp-0.56* 
AbsMono-0.11* AbsEos-0.03* AbsBaso-0.01
___ 11:15AM BLOOD Neuts-60.5 ___ Monos-9.8 Eos-2.8 
Baso-0.8 Im ___ AbsNeut-3.62 AbsLymp-1.55 AbsMono-0.59 
AbsEos-0.17 AbsBaso-0.05
___ 06:16AM BLOOD Plt ___
___ 11:15AM BLOOD Plt ___
___ 10:47AM BLOOD ___
___ 12:00AM BLOOD Glucose-164* UreaN-15 Creat-0.8 Na-140 
K-4.1 Cl-110* HCO3-22 AnGap-12
___ 11:15AM BLOOD UreaN-18 Creat-1.0 Na-138 K-4.4 Cl-102 
HCO3-27 AnGap-13
___ 12:00AM BLOOD ALT-11 AST-16 LD(LDH)-119 AlkPhos-43 
TotBili-1.5
___ 11:15AM BLOOD ALT-12 AST-20 LD(___)-159 AlkPhos-54 
TotBili-1.7* DirBili-0.4* IndBili-1.3
___ 12:00AM BLOOD Albumin-3.7 Calcium-8.5 Phos-1.9* Mg-2.0
___ 11:15AM BLOOD TotProt-7.2 Albumin-4.7 Globuln-2.5 
Calcium-10.1 Phos-3.1 Mg-2.___SSESSMENT AND PLAN:
___ year old male who was diagnosed with stage III IgA lambda 
multiple myeloma who presents for HD Cytoxan in preparation for 
stem cell mobilization and auto transplant. He is now s/p 7 
cycles of RVD antitumor chemotherapy and repeat bone marrow 
biopsy on ___ reveals no evidence of disease.

#FVO: ___ chemotherapy IVF regimen. Weight up 9lbs from baseline 
but pt asymptomatic. Given lasix 20mg x 1 prior to discharge.

#Electrolyte Imabalance (hypophos): most likely 
chemotherapy-induced, repleting prn 

#Hematuria: Hx of hematuria during ___ hospitalization. Was 
noted to have 3 RBCs on admission. Received 1L NS Bolus. Repeat 
UA post NS bolus with 2 RBCS. Patient w/o fever or UTI symptoms. 
Urine culture sent ___. Tolerated HD Cytoxan without further 
evidence of hematuria. UA at discharge wnl.   

#Compression Fracture/Spinal cord compression: No acute symptoms 
on admission. CT of thoracic and lumbar spine on ___ revealed 
collapse of T12 with retropulsion and canal stenosis at this 
level as well as previous known compression fractures. MRI of 
spine performed for further investigation revealed canal 
narrowing in the same area concerning for cord compression, 
however based on examination there was no need for urgent 
radiation/oncology. Patient underwent elective spinal fusion and
underwent a corpectomy and anterior fusion on ___. 

#Multiple Myeloma: Admitted for HD Cytoxan. Patient was 
diagnosed in ___ after presenting with spinal compression 
fractures as described above. Work-up revealed IgA lambda on 
SPEP with M spike. He is now s/p 7 cycles of RVD antitumor 
chemotherapy and repeat bone marrow biopsy on ___ reveals no 
evidence of disease.
After discussion with primary oncologist, plan is to proceeed 
with stem cell collection followed by auto transplant.
-Cyclophosphamide 1860 mg IV Q3H on Day 1. ___ 
mg/m2) 
-Mesna 1100 mg IV Q3H on Day 1. ___ mg/m2) 
-Antiemetics per protocol
-UA prior to chemo and if hematuria, checked UA, as above
-Continue with infectious prophy
-Cipro and neupogen to start post chemo per protocol
-Tunneled line placement ___ in preparation for stem cell 
collection and auto transplant
-Follow up with Dr. ___ ___
 
#Coping/Anxiety: Given recent diagnosis of multiple myeloma 
patient has had difficulty coping and has had increased anxiety. 
Continued on lorazepam 0.5 mg PO PRN anxiety/bedtime and 
mirtazapine 30 mg PO QHS insomnia/anxiety.  
 
# Infectious prophylaxis:
- PCP: ___
- HSV/VZV: Acyclovir
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q12H 
2. Ciprofloxacin HCl 500 mg PO Q12H 
3. Filgrastim 300 mcg SC Q24H 
4. Lorazepam 0.5-1 mg PO QHS 
5. Mirtazapine 30 mg PO QHS 
6. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
7. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
2. Lorazepam 0.5-1 mg PO QHS 
3. Mirtazapine 30 mg PO QHS 
4. Multivitamins 1 TAB PO DAILY 
5. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
6. Filgrastim 300 mcg SC Q24H 
start ___. Ondansetron 8 mg PO Q8H:PRN nausea/vomiting 
8. Ciprofloxacin HCl 500 mg PO Q12H 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Stage III IgA Lambda Multiple Myeloma s/p HD Cytoxan
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___,

You were admitted to receive your high dose chemotherapy 
(Cytoxan) in preparation for your stem cell collection and auto 
transplant.

You tolerated this chemotherapy well. Continue to drink fluids 
at home to ensure that you are well hydrated.

Please continue to take all of your medications as directed. It 
is important to start your neupogen injections as directed 
(start ___ and high dose on ___ in preparation for 
stem cell collections starting ___

You will follow up with Dr. ___ as listed below. Please do 
not hesistate to contact us if you have any concerns or 
questions about your care.

It was a pleasure taking care of you.

Sincerely, 
Your ___ Team
 
Followup Instructions:
___